US08912186B2
To a solution of commercial 2-naphthaldehyde (7.81 g) and ethyl acetoacetate (13 g) in ethanol (15 ml) piperidine (1 ml) was added with stirring at rt. The yellowish solution was kept at rt for 20 h. The precipitate was isolated by suction filtration, washed with ethanol, and dried in vacuo to give 14.7 g light yellow crystals (the bis-adduct of acetoacetate to the aldehyde). The crystals were added in portions to 40% NaOH (400 g) with stirring and the resulting yellow slurry was stirred at reflux for 2 h. After cooling in an ice bath the mixture was acidified by portionwise addition of conc. HCl (360 ml). A resinous precipitate is formed. The aqueous layer was extracted with ethyl acetate (3×100 ml) and the combined organic layers dried (sodium sulfate). After filtration and evaporation of the solvent the crude (8.5 g) was triturated with ethyl acetate to leave 3-(2-naphthyl)glutaric acid (3.6 g) as colourless solid. The suspension of 3-(2-naphthyl)glutaric acid in acetyl chloride (10 ml) was heated to reflux with stirring for 1 h. After cooling to rt the precipitate is isolated by suction filtration, washed with acetyl chloride (4×3 ml) and petrol ether, and dried in vacuo to provide 3-(2-naphthyl)glutaric anhydride (2.88 g) as colourless powdery solid.

reactant | 3-(2-naphthyl)glutaric acid | C1=C(C=CC2=CC=CC=C12)C(CC(=O)O)CC(=O)O | C15H14O4
solvent | acetyl chloride | 10 ml | C(C)(=O)Cl | C2H3ClO
product | 3-(2-naphthyl)glutaric anhydride | 2.88 g | C1=C(C=CC2=CC=CC=C12)C1CC(=O)OC(C1)=O | C15H12O3
